US04031107
Dimethylformamide (2 milliliters) was added to 4 grams of 1-hydroxy-2-(trifluoromethyl)-1H-imidazo[4,5-b]pyridine in 10 milliliters of thionyl chloride. The resulting reaction mixture was heated on a steam bath overnight. Solvent was removed and the residue shaken with 50 milliliters of water and filtered. The residue was then taken up in sodium hydroxide solution, filtered and acidified to pH 3, shaken with three 150-milliliter portions of diethyl ether, and dried over magnesium sulfate. Solvent was evaporated, yielding the desired 6-chloro-2-(trifluoromethyl)-1H-imidazo[4,5-b]pyridine, m.p., 290°-2° C., with sublimation from 260° C.

reactant | Dimethylformamide | 2 milliliters | CN(C=O)C | C3H7NO
reactant | 1-hydroxy-2-(trifluoromethyl)-1H-imidazo[4,5-b]pyridine | 4 grams | ON1C(=NC2=NC=CC=C21)C(F)(F)F | C7H4F3N3O
reactant | thionyl chloride | 10 milliliters | S(=O)(Cl)Cl | Cl2OS
product | 6-chloro-2-(trifluoromethyl)-1H-imidazo[4,5-b]pyridine | ClC=1C=C2C(=NC1)N=C(N2)C(F)(F)F | C7H3ClF3N3
